US04892885
A mixture of 11.9 ml of benzyl bromide in 100 ml of ether was added dropwise to a solution of 29.6 ml of piperidine in 100 ml of ether. This mixture was stirred overnight, then filtered. The organic layer was washed with water, then dried and concentrated to an oil. The oil was distilled through a Kugelrohr and the fraction boiling at 75°-85° C., 1.55 mm collected, giving 16.77 g of 1-(phenylmethyl)piperidine as an oil.

reactant | benzyl bromide | 11.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | piperidine | 29.6 ml | N1CCCCC1 | C5H11N
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-(phenylmethyl)piperidine | 16.77 g | C1(=CC=CC=C1)CN1CCCCC1 | C12H17N
